US07524847B2
Methyl-(3-nitro-pyridin-4-yl)amine
4-Ethoxy-3-nitropyridine (10.0 g) was dissolved in a 40% methanol solution of methyl amine (100 mL), and this was heated at 80° C. for 60 hours. The solution was cooled, ethyl acetate (500 mL) was added, and the organic layer was washed twice with 300 mL of water and once with 300 mL of saturated aqueous sodium chloride solution. This was then dried over anhydrous magnesium sulfate. The solution was filtered, and concentrated under reduced pressure to give the title compound (7.00 g).

reactant | 4-Ethoxy-3-nitropyridine | 10.0 g | C(C)OC1=C(C=NC=C1)[N+](=O)[O-] | C7H8N2O3
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
reactant | methyl amine | 100 mL | CN | CH5N
solvent | methanol | CO | CH4O
product | Methyl-(3-nitro-pyridin-4-yl)amine | 7.00 g | CNC1=C(C=NC=C1)[N+](=O)[O-] | C6H7N3O2
